US07713993B2
Synthesis of methyl (4-fluorophenyl)methoxyacetate
Cesium carbonate (6.5 g) was added to a solution of 4-fluoromandelic acid (CAS #395-33-5, 1.7 g) and methyl iodide (1.9 mL) in DMF (15 ml), and the reaction solution was stirred at room temperature for 11 hours. Ethyl acetate and water were added to the reaction solution, and the organic layer was separated. The organic layer washed with water and brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 1.22 g of the title compound. The property values of the compound are as follows.

reactant | Cesium carbonate | 6.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-fluoromandelic acid | 1.7 g | FC1=CC=C(C(C(=O)O)O)C=C1 | C8H7FO3
reactant | methyl iodide | 1.9 mL | CI | CH3I
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl (4-fluorophenyl)methoxyacetate | 1.22 g | FC1=CC=C(C=C1)COCC(=O)OC | C10H11FO3
